US07507729B2
b) 4-Chloro-2-(5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-phenylamine
As described for example 1b) 9-chloro-2-methoxymethyl-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one (73.4 g, 277 mmol), instead of 9-chloro-2-cyclopropyl-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one, was converted to the title compound (61.0 g, 92%) which was obtained as a brown solid. MS: m/e=238.9 [M+H]+.

reactant | 9-chloro-2-methoxymethyl-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one | 277 mmol, 73.4 g | ClC1=CC=2C=3N(C(NC2C=C1)=O)N=C(N3)COC | C11H9ClN4O2
reactant | 9-chloro-2-cyclopropyl-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one | ClC1=CC=2C=3N(C(NC2C=C1)=O)N=C(N3)C3CC3 | C12H9ClN4O
product | 4-Chloro-2-(5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-phenylamine | 61.0 g, 92% | ClC1=CC(=C(C=C1)N)C=1NN=C(N1)COC | C10H11ClN4O
